US04477671
A solution of 2.0 g., (0.005 mole) of 2-acetoxymethyl-3-acetoxy-6-(1-acetoxy-2-N-acetyl-tert-butylaminoethyl)pyridine in 50 ml. of methanol containing 1 ml. of concentrated hydrochloric acid was heated to reflux for 12 hours. The solvents were removed in vacuo and the residue recrystallized from ethyl acetate to give pirbuterol hydrochloride (900 mg., 58%) m.p. 172°-175° C. (dec.), NMR and tlc in 6:3:1 EtOAz:CH3OH:Et2NH identical to pirbuterol. Prolonged heating results in the formation of 2-hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-aminoethyl)pyridine, m.p. 184°-186° dec.

reactant | Et2NH | N(CC)CC | C4H11N
reactant | pirbuterol | CC(C)(C)NCC(C=1C=CC(=C(N1)CO)O)O | C12H20N2O3
solvent | CH3OH | CO | CH4O
product | 2-hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-aminoethyl)pyridine | OCC1=NC(=CC=C1O)C(CN)O | C8H12N2O3
